US06350771B1
30% Hydrogen peroxide (1.82 ml) was added to a stirred solution of 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-methyl-4-methylthio-1H-pyrazole-3-carbonitrile (6.2 g) in methanol, containing i-PrOH/H2SO4 catalyst (5.31 ml) described by Drabowicz, et al (above) at 0-5° C. The mixture was allowed to warm to 20° C. over 17 hours. Additional hydrogen peroxide (5.46 ml) was added in three portions over the next 24 hours, along with the catalyst (5 ml). After stirring for a further 60 hours water was added to give 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-methyl-4-methylsulfinyl-1H-pyrazole-3-carbonitrile (6.72 g) as a yellow oil (91.7% area purity by HPLC) having a retention time of 3.61 minutes on a 25.0 centimeter by 4.6 millimeter SUPELCOSIL LC-18 column, eluting with CH3CN/H2O (3:1) solvent at 1 ml/minute.

reactant | Hydrogen peroxide | 1.82 ml | OO | H2O2
reactant | 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-methyl-4-methylthio-1H-pyrazole-3-carbonitrile | 6.2 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1C)SC)C#N | C13H8Cl2F3N3S
reactant | hydrogen peroxide | 5.46 ml | OO | H2O2
reactant | water | O | H2O
solvent | methanol | CO | CH4O
catalyst | i-PrOH H2SO4 | 5.31 ml | CC(C)O.OS(=O)(=O)O
product | 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-methyl-4-methylsulfinyl-1H-pyrazole-3-carbonitrile | 6.72 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1C)S(=O)C)C#N | C13H8Cl2F3N3OS
